US08859541B2
G1a tert-butyl-N-[1-[[5-(3,5-dimethylpyridin-4-yl)-6-(2-quinolin-6-ylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate
A mixture of tert-butyl-N-[1-[[5-(3,5-dimethylpyridin-4-yl)-6-ethynylpyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate (E1a desilylated according to the general method exemplified for F1a) (50 mg, 0.12 mmol), 6-iodoquinoline (89 mg, 0.35 mmol), copper(I) iodide (2.2 mg, 0.01 mmol), Dichlorobis(triphenylphosphine)palladium(II) (8.1 mg, 0.01 mmol) and triethylamine (64 μl, 0.47 mmol) is stirred under argon atmosphere in NMP (0.5 ml) for 1 h at 50° C. The mixture is concentrated in vacuo and the product purified by RP HPLC. Yield: 28 mg (45%). HPLC-MS: M+H=536; tR=1.79 min (*Method—3).

reactant | tert-butyl-N-[1-[[5-(3,5-dimethylpyridin-4-yl)-6-ethynylpyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate | C(C)(C)(C)OC(N(C)C(C(=O)NC1=NC(=C(C=C1)C1=C(C=NC=C1C)C)C#C)C)=O | C23H28N4O3
reactant | 6-iodoquinoline | 0.35 mmol, 89 mg | IC=1C=C2C=CC=NC2=CC1 | C9H6IN
reactant | triethylamine | 0.47 mmol, 64 μl | C(C)N(CC)CC | C6H15N
solvent | NMP | 0.5 ml | CN1CCCC1=O | C5H9NO
catalyst | copper(I) iodide | 0.01 mmol, 2.2 mg | [Cu]I
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 0.01 mmol, 8.1 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl-N-[1-[[5-(3,5-dimethylpyridin-4-yl)-6-(2-quinolin-6-ylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate | C(C)(C)(C)OC(N(C)C(C(=O)NC1=NC(=C(C=C1)C1=C(C=NC=C1C)C)C#CC=1C=C2C=CC=NC2=CC1)C)=O | C32H33N5O3
